US05190934
A solution of 5.82 g of lithium diisopropylamide in 30 ml of anhydrous tetrahydrofuran is cooled to -78° C. under an inert atmosphere. Under constant stirring at -78° a solution of 9.84 g of ethyl n-butyl(methyl)phosphinate in 20 ml of anhydrous tetrahydrofuran is added over 15 minutes under a positive pressure of an inert atmosphere via a canula. The resulting pale yellow solution is stirred for 1 hour at -78° and a pre-cooled (-78° C.) solution of 1.89 g of N-tert.-butoxycarbonylglycine methyl ester in 10 ml of anhydrous tetrahydrofuran is added over 5 minutes via a canula. Thin layer chromatography indicates complete reaction after circa 10 minutes. At -78° 4.0 g of glacial acetic acid is added and the mixture is allowed to warm to room temperature. The reaction mixture is diluted with dichloromethane and washed with water. Drying over magnesium sulphate and removal of the solvent in vacuo affords a pale yellow oil. Removal of the excess starting material by distillation and chromatography of the resulting yellow oil on silica gel yields ethyl 3-(N-tert.-butoxycarbonylamino)-2-oxo-propyl(n-butyl)phosphinate as a colourless viscous oil.

reactant | lithium diisopropylamide | 5.82 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl n-butyl(methyl)phosphinate | 9.84 g | C(CCC)P(OCC)(=O)C | C7H17O2P
reactant | N-tert.-butoxycarbonylglycine methyl ester | 1.89 g | COC(CNC(=O)OC(C)(C)C)=O | C8H15NO4
reactant | acetic acid | 4.0 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 3-(N-tert.-butoxycarbonylamino)-2-oxo-propyl(n-butyl)phosphinate | C(C)(C)(C)OC(=O)NCC(CP(OCC)(=O)CCCC)=O | C14H28NO5P
